US06187801B1
5-Chloroindan-1-one is reacted with bromine in glacial acetic acid using a catalytic amount of 48% strength HBr solution in water at room temperature. 2-Bromo-5-chloroindan-1-one is obtained with a melting point of 94-96° C.

reactant | 5-Chloroindan-1-one | ClC=1C=C2CCC(C2=CC1)=O | C9H7ClO
reactant | bromine | BrBr | Br2
reactant | HBr | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-Bromo-5-chloroindan-1-one | BrC1C(C2=CC=C(C=C2C1)Cl)=O | C9H6BrClO
